US04780477
By using 6-chloro-1-(2-diisopropylaminoethyl)isatin and semicarbazide hydrochloride, a method analogous to that described in Example 4 was carried out to obtain (E)-6-chloro-1-(2-diisopropylaminoethyl)isatin 3-semicarbazone having a melting point of 205°-208° C. (yield: 69.4%, recrystallizing solvent: aqueous methanol).

reactant | 6-chloro-1-(2-diisopropylaminoethyl)isatin | ClC1=CC=C2C(C(N(C2=C1)CCN(C(C)C)C(C)C)=O)=O | C16H21ClN2O2
reactant | semicarbazide hydrochloride | Cl.NNC(=O)N
product | (E)-6-chloro-1-(2-diisopropylaminoethyl)isatin 3-semicarbazone | yield: 69.4% | ClC1=CC=C2\C(\C(N(C2=C1)CCN(C(C)C)C(C)C)=O)=N/NC(=O)N | C17H24ClN5O2
